.subckt nand3i_x1 A1 A2 A3 X VDD VSS
XM0I_P0 in0_b A1 VDD VDD pmos w=2u l=100n
XM0I_N0 in0_b A1 VSS VSS nmos w=1u l=100n
XMPA0 X in0_b VDD VDD pmos w=2u l=100n
XMPB0 X A2 VDD VDD pmos w=2u l=100n
XMPC0 X A3 VDD VDD pmos w=2u l=100n
XMNC0 X A3 nmid2 VSS nmos w=1u l=100n
XMNB0 nmid2 A2 nmid1 VSS nmos w=1u l=100n
XMNA0 nmid1 in0_b VSS VSS nmos w=1u l=100n
.ends nand3i_x1
